US08669254B2
5-(3,4-Dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-N-(3,3,3-trifluoro-2-oxo-propyl)-nicotinamide
A suspension of 3.00 g 2-[5-(3,4-dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridin-3-yl]-4-(2,2,2-trifluoro-acetyl)-4H-oxazol-5-one in 15 ml water and 15 ml dioxan was heated to reflux for 1 h. The resulting slightly turbid solution was partitioned between water and ethyl acetate. The phases were separated and the organic phase was purified by chromatography on silica gel with heptane:ethyl acetate=9:1 to 1:1. The product fractions were concentrated and the residue was taken up in dichloromethane whereby crystallization occurred. The solid was collected by filtration and washed with little dichloromethane to yield 1.60 g of the title compound as white solid. m.p.: 122-124° C. MS (EI): 474 (M+).

reactant | 2-[5-(3,4-dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridin-3-yl]-4-(2,2,2-trifluoro-acetyl)-4H-oxazol-5-one | 3.00 g | ClC=1C=C(C=CC1Cl)C=1C=C(C=NC1OCC(F)(F)F)C=1OC(C(N1)C(C(F)(F)F)=O)=O | C18H8Cl2F6N2O4
solvent | water | 15 ml | O | H2O
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
product | 5-(3,4-Dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-N-(3,3,3-trifluoro-2-oxo-propyl)-nicotinamide | 1.60 g | ClC=1C=C(C=CC1Cl)C=1C(=NC=C(C(=O)NCC(C(F)(F)F)=O)C1)OCC(F)(F)F | C17H10Cl2F6N2O3
